US04927836
(-)-Methyl 4-[2-(2-hydroxy-3-phenoxypropylamino)ethoxy]phenoxyacetate (44.0 g) (the same starting material as in Example 2) and 2-methoxyethylamine (30 ml) were heated together on a steam-bath for 24 hours. The mixture was cooled and evaporated under reduced pressure to give an oily residue. This was dissolved in dichloromethane (200 ml) and treated with a solution of ether saturated with hydrogen chloride. The solvent was evaporated and the residual solid crystallised from a mixture of methanol and ethyl acetate to give (S)-4-[2-(2-hydroxy-3-phenoxypropylamino)ethoxy]-N-(2-methoxyethyl)phenoxyacetamide hydrochloride (39.2 g), m.p. 171°-3° C.; αD =-10.7° (c=1.0; methanol); microanalysis: found C, 58.1; H, 7.0; N, 6.0; Cl, 7.9%; required for C22H31ClN2O6 : C, 58.1; H, 6.9; N, 6.2; Cl 7.8%: NMR (DMSO-d6) 3.1(m,1H, CHCH2NH); 3.24(s, 3H,OCH3); 3.24-3.45(m,7H,CHCH2NHCH2 ; NHCH2CH2OCH3); 4.0(m,2H, ArOCH2CHOH); 4.2-4.35(m,3H,CHOH; CH2CH2OAr); 5.95(d,1H,OH); 6.85-7.05(m,7H,Ar); 7.3(m,2H,Ar); 8.15(t,1H, CONHCH2); 9.16 and 9.35 (broad peaks, 2H, NH2+).

reactant | (-)-Methyl 4-[2-(2-hydroxy-3-phenoxypropylamino)ethoxy]phenoxyacetate | 44.0 g | OC(CNCCOC1=CC=C(OCC(=O)OC)C=C1)COC1=CC=CC=C1 | C20H25NO6
reactant | 2-methoxyethylamine | 30 ml | COCCN | C3H9NO
reactant | ether | CCOCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (S)-4-[2-(2-hydroxy-3-phenoxypropylamino)ethoxy]-N-(2-methoxyethyl)phenoxyacetamide hydrochloride | 39.2 g | Cl.O[C@@H](CNCCOC1=CC=C(OCC(=O)NCCOC)C=C1)COC1=CC=CC=C1 | InChI=1S/C22H30N2O6.ClH/c1-27-13-12-24-22(26)17-30-21-9-7-20(8-10-21)28-14-11-23-15-18(25)16-29-19-5-3-2-4-6-19;/h2-10,18,23,25H,11-17H2,1H3,(H,24,26);1H/t18-;/m0./s1
